Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Blurry vision
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
The pt is a ___  year-old man with HIV, HCV who presents with
headache x1 week 2 weeks ago, now with one week of binocular
diplopia and RLE unsteadiness. 

Patient reports that he either awoke or soon after awakening two
___ ago ___ developed holocephalic bifrontal predominant
pounding headache with photo- and phonophobia. Denies aura or
other symptoms at that time. Had one episode of overnight/early
morning (around 1 or 2 AM) bilious vomiting that ___ evening
into ___ morning; no other nausea or vomiting. Thought the
vomiting might be ___ his medications as he had one prior 
episode
of vomiting after starting his medications. Tried naproxen x1,
the following day tried acetaminophen with caffeine. Neither 
with
any benefit. Slept a lot and was basically in bed that entire
week which he reports helped somewhat. No clear positional
component. Headache persisted, eventually lessened; did move
somewhat temporo-parietally, eventually was predominantly right
posterior parietal/ right parieto-occipital and scalp 
tenderness.
Headache now completely resolved, though reports he did have the
scalp tenderness yesterday. Denies pulsatile tinnitus. 

Then one week ago soon after awakening noticed what he thought
was his vision in his right eye in the lower field being "off"
possibly clouded or blurry. When questioned further reports that
in fact the vision was double and continues to be double with
both eyes at a distance, is improved with closing either eye or
looking at near objects. In fact denies blurred vision (has left
astigmatism and requires glasses at baseline, is near-sighted at
baseline). Reports that this diplopia has continued unchanged
since it started. Does not notice worsening of this in any
particular direction, but possibly notices it slightly more when
looking at a distance and slightly inferiorly. He is still able
to read, no changes in near vision. 

Reports that around the same time as the change in his vision
that his right leg seemed to be also "off." He has a hard time
describing it further; denies frank weakness, numbness, or pain
but reports that his leg seemed to not cooperate, that he would
have to look down to see where his leg was. Denies symptoms in
his RUE but at one point mentions putting his arm on the bed to
know where he is/it is. Reports seeming to veer off to the 
right.
Denies frank loss of balance, falling. Has difficulty saying
whether this is loss of coordination. Denies dizziness. 

At first denies changes in his thoughts, when asked if any
confusion endorses the veering off which his roommate had
interpreted as confusion. Reports while in the ED reading a
sentence and then reading it again and the words being 
different.
Denies other unusual or abnormal thinking. 

In ED found to have grossly nonfocal examination with normal
visual acuity, no nystagmus, normal gait. 

On neuro ROS, the pt denies loss of vision, blurred vision,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesias. No bowel or bladder incontinence or retention.
Reports some difficulty with gait which he attributes to his
right leg.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain; reports
always having difficulty keeping weight on. Denies cough,
shortness of breath.  Denies chest pain or tightness,
palpitations.  Endorses bilious emesis x1. Otherwise denies
nausea, vomiting, diarrhea, constipation or abdominal pain.  No
recent change in bowel or bladder habits.  No dysuria.  Denies
arthralgias or myalgias. Denies rash.

Denies recent travel, new or unusual foods or exposures. As
below, endorses BID marijuana smoking. Denies other drugs.

 
Past Medical History:
HCV
HIV (possibly both HIV and HCV diagnosed in ___,
started on medication then)
Cholecystectomy in ___, appendectomy ___, perforated bowel
___, hernia repair in ___.
 
Social History:
___
Family History:
Mother with history of migraine headaches; deceased in
her ___ after having a headache for a week or so, per patient
mother refused to see a doctor and then eventually they called 
an
ambulance, mother brought in and had "something wrong with her
brainstem" ___ "not enough oxygen" (? hypoxic event), was said 
to
be in a coma and then family pursued CMO. Mother's brother with
cancer and blood clots (unclear which was first), mother's other
brother with emphysema and OSA. Maternal grandmother with 
cancer,
heart surgery but deceased ___ old age. Maternal grandfather 
with
cancer. Father's side with mental health and addiction problems. 

 
Physical Exam:
Physical Exam:
Vitals: 98.1  100  137/86  16  100% RA
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without major difficulty but some difficulty with articulating
specific details. Fairly attentive, able to spell "world" 
forward
but initially when asked to then spell it backward spells
"BACKWARD" then when re-prompted spells "world" correctly
backward. Naming intact to high frequency objects. Language is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors. Speech was not dysarthric. Able
to follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3.5 to 2mm and brisk. EOMI with several
beats of nystagmus on left end gaze which extinguishes, no
nystagmus to right. VFF to confrontation. Fundoscopic exam
deferred (patient in hallway, no ophthalmoscope available).
Endorses binocular diplopia at a distance of about 10 feet in
midline slightly inferomedially; does not clearly worsen to
either side. Improves with monocular vision. No binocular
diplopia with end gaze in either direction. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, cold sensation,
proprioception throughout. No extinction to DSS. Graphesthesia
guessed "0" to 6 on the left, 3 correctly on right. 

-DTRs: brisk throughout in bilateral biceps, brachioradialis,
patellae, Achilles. Crossed adductors and prepatellars
bilaterally. No pec jerks, no ___. Plantar response was
flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Good initiation. Somewhat wide based, initially fairly
straight, possibly slightly to the right. When examiner mentions
him veering slightly seems to then veer more to the right.
Romberg initially without significant sway then places self
closer to bed as sways slightly and then sways slightly more but
does not fall. 

 
Pertinent Results:
___ 12:15PM BLOOD WBC-6.5 RBC-4.80 Hgb-15.8 Hct-44.1 MCV-92 
MCH-32.9* MCHC-35.8 RDW-11.9 RDWSD-40.3 Plt ___
___ 12:15PM BLOOD Neuts-58.0 ___ Monos-5.9 Eos-1.2 
Baso-0.2 Im ___ AbsNeut-3.75 AbsLymp-2.23 AbsMono-0.38 
AbsEos-0.08 AbsBaso-0.01
___ 06:20AM BLOOD Glucose-98 UreaN-17 Creat-1.0 Na-142 
K-3.8 Cl-103 HCO3-25 AnGap-18
___ 06:20AM BLOOD ALT-12 AST-15 AlkPhos-51 TotBili-1.8*
___ 06:20AM BLOOD Albumin-3.9
___ 06:20AM BLOOD HCV VL-NOT DETECT
___ 06:20AM BLOOD HIV1 VL-DETECTED  
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman who was admitted to 
the neurology service because of concerns of double vision. He 
had a prolonged headache one week prior, and then upon 
resolution of the headache, he noticed the persistent double 
vision.
Mr. ___ had an extensive neurologic workup that was 
overall unrevealing. CT head and neck were negative in terms of 
stroke/vessel anatomy (see below for the abnormal pulmonary 
findings.)
MRI of his brain was normal. Labs were all unremarkable, and in 
speaking to his primary providers at ___, his HIV and 
HCV have been under stable control.
It was thought that Mr. ___ symptoms could possibly be 
a prolonged migraine aura. We recommended that Mr. ___ 
follow-up with both ophthalmology and neurology as an 
outpatient. We counseled him not to take triptan medications as 
abortive medications for migraine headaches, as he is now 
considered to have "complicated" migraines, in which triptans 
are prohibited.
It is acceptable for Mr. ___ to take NSAIDs as abortive 
medications for future migraines.
No changes to Mr. ___ medications were made. He agreed 
with plans for discharge and follow-up.

Transitional issues:
- CT/CTA head and neck showed: Moderate bronchiectasis in the 
anterior segment of the right upper lobe, more pronounced 
peripherally, with foci of peripheral mucous plugging, raising 
the question of developing ABPA versus post infectious etiology. 
Scattered 2mm noncalcified pulmonary nodules in the right upper 
lobe, possibly noncalcified granulomas given the presence of an 
adjacent calcified granuloma. 
- Recommend clinical correlation regarding the possibility of 
developing ABPA. According to the ___ guidelines, 
follow up chest CT for 2 mm pulmonary nodules is not required, 
but could be optionally pursued if the patient has a history of 
smoking, a known primary malignancy, or a family history of lung 
cancer. No follow up is needed in the absence of the above risk 
factors. 
- Ensure Ophtho and neurology outpatient follow-up.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ledipasvir/Sofosbuvir 1 TAB PO DAILY 
2. Genvoya (elviteg-cobi-emtric-tenofo ala) ___ mg 
oral Unknown 
3. ClonazePAM 0.5 mg PO BID:PRN Anxiety 

 
Discharge Medications:
1.  ClonazePAM 0.5 mg PO BID:PRN Anxiety  
2.  Genvoya (elviteg-cobi-emtric-tenofo ala) ___ mg 
oral Unknown  
3.  Ledipasvir/Sofosbuvir 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diplopia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the neurology floor at ___ because of 
concerns about double vision. You had a brain CT scan, which was 
normal, and CTA, which showed normal blood vessels in  your 
brain. Your brain MRI was also normal -- no signs of stroke or 
any other abnormalities. There were some small pulmonary nodules 
found on the CT scan, where a small part of your chest was seen 
in the imaging, and you should have a full CT of your chest 
completed as an outpatient, as directed by your primary care 
doctor.
It is possible that your double vision is an extended aura from 
a migraine with prolonged aura.
If you have another migraine headache, we recommend taking 
naproxen 500mg twice daily for 3 days. 
You should see a neurologist to follow-up your headache and 
double vision symptoms in the long term, and you should see 
ophthalomology (the eye doctors) as an outpatient.
If you have more migraine-type headaches, you should not take 
sumatriptans, or anything in that class of medications, since 
you have what we classify as a "migraine with prolonged aura," 
in which sumatriptans are contra-indicated. NSAIDs, like 
ibuprofen and naproxen, are just fine.
We expect that your double vision will improve in time.
 
Followup Instructions:
___